US09315458B2
E) methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-2-hydroxy-4-methylbenzoate
Tetrakis(triphenylphosphine)palladium(0) (0.40 g) was added to a mixture of methyl 3-fluoro-2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (2.13 g), 1-(4-(chloromethyl)phenyl)-1H-pyrazole (1.32 g), sodium carbonate (1.46 g), DME (30.0 mL) and water (10.0 mL) under argon atmosphere, and the mixture was stirred overnight at 80° C. The reaction mixture was allowed to be cooled to room temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.33 g).

reactant | methyl 3-fluoro-2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.13 g | FC=1C(=C(C(=O)OC)C=C(C1C)B1OC(C(O1)(C)C)(C)C)O | C15H20BFO5
reactant | 1-(4-(chloromethyl)phenyl)-1H-pyrazole | 1.32 g | ClCC1=CC=C(C=C1)N1N=CC=C1 | C10H9ClN2
reactant | sodium carbonate | 1.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 30.0 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 10.0 mL | O | H2O
product | methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-2-hydroxy-4-methylbenzoate | 0.33 g | N1(N=CC=C1)C1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)O)F)C)C=C1 | C19H17FN2O3
